US04629737
2-Fluorobenzaldehyde dimethylacetal
A mixture of 12.2 g of 2-fluorobenzaldehyde, 15 ml of 2,2-dimethoxypropane and 0.1 g of 4-toluenesulphonic acid was stirred at room temperature. After 24 hours, diethyl ether was added and the resultant solution washed with saturated sodium bicarbonate solution. Drying and evaporation of the organic phase gave the crude acetal. Distillation under vacuum at 90°-95° C./0.08 mm yielded the title compound as a colourless oil.

reactant | 2-fluorobenzaldehyde | 12.2 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 2,2-dimethoxypropane | 15 ml | COC(C)(C)OC | C5H12O2
reactant | 4-toluenesulphonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Fluorobenzaldehyde dimethylacetal | COC(C1=C(C=CC=C1)F)OC | C9H11FO2
